US06734203B2
NaH (440 mg) was added to a solution of 2-oxopiperidine (1.0 g) in DMF (20 ml) and the mixture was stirred at room temperature for 30 minutes. This solution was added in a single portion to a solution of 2,3-dichloro-1,4-dihydro-1,4-dioxonaphthalene (6.9 g) in DMF (150 ml) and the mixture was stirred at room temperature for 17 hours. The reaction solution was poured into saturated aqueous ammonia and the resulting precipitate was removed by filtration and then the filtrate was extracted with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (elution with ethyl acetate-hexane 1:10 solution) to give 2-chloro-1,4-dihydro-1,4-dioxo-3-(2-oxopiperidino)naphthalene (0.49 g) as a light brown powder.

reactant | NaH | 440 mg | [H-].[Na+]
reactant | 2-oxopiperidine | 1.0 g | O=C1NCCCC1 | C5H9NO
reactant | 2,3-dichloro-1,4-dihydro-1,4-dioxonaphthalene | 6.9 g | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | ammonia | N | H3N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-chloro-1,4-dihydro-1,4-dioxo-3-(2-oxopiperidino)naphthalene | 0.49 g | ClC=1C(C2=CC=CC=C2C(C1N1C(CCCC1)=O)=O)=O | C15H12ClNO3
